Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Elevated blood pressures 
 
Major Surgical or Invasive Procedure:
preterm vaginal birth

 
History of Present Illness:
___ G3P1 at 35+1, sent from ___ appt for ___ eval after 
pressures elevated today for first time 142/88.  Pt also has HA, 
___, hasn't taken anything for pain.  Denies visual changes, 
RUQ/epigastric pain.  Denies CTX, VB or LOF.  +AFM.
 
Past Medical History:
PNC:
-___: ___
-Labs: B+/Ab-/HBsAg-/RPRNR/RI/HIV-/GBS pend
-Screening: abnormal quad T21 1:17, declined further testing
-FFS: WNL, anterior placenta
-GLT: 106, passed
-EFW: ___, 49%ile
-Issues: 
*late transfer of care at 21 weeks
*abnormal quad screen

OBHx:
-TAB x1
-SVD 39+6, uncomplicated ___
-current

PMH: G6PD deficiency
PSH: D&C (TAB), right ear keloid removal

 
Family History:
non-contributory
 
Physical Exam:
VS: Afebrile, VSS 
Neuro/Psych: NAD, Oriented x3, Affect Normal 
Heart: RRR
Lungs: CTA b/l
Abdomen: soft, appropriately tender, fundus firm
Pelvis: minimal bleeding 
Extremities: warm and well perfused, no calf tenderness, no 
edema 
 
Pertinent Results:
___ 02:57PM BLOOD WBC-11.0* RBC-3.45* Hgb-10.3* Hct-31.1* 
MCV-90 MCH-29.9 MCHC-33.1 RDW-13.4 RDWSD-43.8 Plt ___
___ 02:19AM BLOOD WBC-12.2*# RBC-3.78* Hgb-11.2 Hct-34.0 
MCV-90 MCH-29.6 MCHC-32.9 RDW-13.2 RDWSD-43.2 Plt ___
___ 03:00PM BLOOD WBC-7.8 RBC-3.75* Hgb-11.2 Hct-33.9* 
MCV-90 MCH-29.9 MCHC-33.0 RDW-13.2 RDWSD-43.5 Plt ___
___ 05:46AM BLOOD WBC-8.0 RBC-3.86* Hgb-11.4 Hct-34.4 
MCV-89 MCH-29.5 MCHC-33.1 RDW-13.1 RDWSD-42.9 Plt ___
___ 12:00AM BLOOD WBC-6.0 RBC-3.44* Hgb-10.2* Hct-31.1* 
MCV-90 MCH-29.7 MCHC-32.8 RDW-13.0 RDWSD-43.0 Plt ___
___ 04:33PM BLOOD WBC-6.6 RBC-3.44* Hgb-10.3* Hct-31.0* 
MCV-90 MCH-29.9 MCHC-33.2 RDW-13.2 RDWSD-42.7 Plt ___
___ 02:57PM BLOOD Creat-0.5
___ 02:19AM BLOOD Creat-0.6
___ 03:00PM BLOOD Creat-0.5
___ 05:46AM BLOOD UreaN-4* Creat-0.4
___ 12:00AM BLOOD Creat-0.5
___ 04:33PM BLOOD Creat-0.5
___ 02:57PM BLOOD ALT-8 AST-15
___ 02:19AM BLOOD ALT-10 AST-16
___ 03:00PM BLOOD ALT-11 AST-17
___ 05:46AM BLOOD ALT-11 AST-21
___ 12:00AM BLOOD ALT-9 AST-17
___ 04:33PM BLOOD ALT-9 AST-16
___ 02:57PM BLOOD UricAcd-5.3
___ 02:19AM BLOOD Mg-5.7* UricAcd-5.2
___ 03:00PM BLOOD UricAcd-4.9
___ 05:46AM BLOOD UricAcd-4.3
___ 12:00AM BLOOD UricAcd-4.6
___ 04:33PM BLOOD UricAcd-4.6
___ 04:33PM URINE Color-Yellow Appear-Hazy Sp ___
___ 04:33PM URINE Blood-SM  Nitrite-NEG Protein->600 
Glucose-TR Ketone-NEG Bilirub-SM  Urobiln-2* pH-6.5 Leuks-NEG
___ 04:33PM URINE RBC-3* WBC-6* Bacteri-FEW Yeast-NONE 
Epi-1
___ 04:33PM URINE CastHy-13*
___ 04:33PM URINE Mucous-MOD
___ 04:33PM URINE Hours-RANDOM Creat-338 TotProt-1760 
Prot/Cr-5.2*
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the antepartum service 
for elevated blood pressures and headache at 35w1d. She received 
10mg of PO Nifedipine with improvement. Her urine P:C ratio was 
notable at 5.2mg. She received a dose of late preterm 
betamethasone on ___. She was transferred to antepartum and 
started a 24 hour urine collection, however, developed 
persistently severe range blood pressures and persistent 
headache. She was transferred to L&D for IOL for severe PEC and 
Magnesium for eclampsia prophylaxis. Upon arrival she was given 
IV hydralazine 20mg and started on 200mg PO labetalol TID for BP 
control and started on Magnesium. For her headache, she was 
given IV reglan, zofran, fioricet, compazine. For persistent 
severe range pressures, she was given an additional dose of 
100mg PO labetalol with increase to 300mg PO labetalol TID. 
Subsequently, she was given an additional 20mg IV labetalol and 
uptitrated to 400mg PO labetalol TID. 

She received 6 vaginal cytotecs and a foley bulb for her 
induction. On ___, she underwent a vaginal delivery of 
viable baby girl with placenta requiring manual removal. She 
also had post-placental Liletta IUD placement under ultrasound 
guidance. 

She was continued on Magnesium for 24 hours postpartum. She was 
given one dose of kefzol for manual removal of placenta. She was 
then transferred to the postpartum floor. 

On PPD#0, she was noted to have persistent BPs around 
150s/80s-90s and was started on PO Nifedipine 30mg CR. On PPD#1, 
she had a severe range pressure of 171/114 at which time her 
scheduled 400mg Labetalol was given with improvement to 142/72. 
She again had a severe range pressure of 163/78 and repeat 
157/101 at which time PO labetalol was uptitrated to 600mg TID 
and given 1.5 hours early with improvement to 142/60. 

For her history of G6PD deficiency, NSAIDs were held. She was 
also kept on Lovenox for VTE prophylaxis.

By postpartum day 3, she was tolerating a regular diet, 
ambulating independently, and pain was controlled with oral 
medications. She was afebrile with stable vital signs. She was 
then discharged home in stable condition with postpartum 
outpatient follow-up scheduled.
 
Medications on Admission:
prenatal vitamins
iron
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg ___ tablet(s) by mouth q 6 hours Disp 
#*40 Tablet Refills:*2 
2.  Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*40 Capsule Refills:*2 
3.  Labetalol 600 mg PO Q8H 
RX *labetalol 300 mg 2 tablet(s) by mouth q 8 hours Disp #*90 
Tablet Refills:*3 
4.  NIFEdipine CR 30 mg PO DAILY 
RX *nifedipine 30 mg 1 tablet(s) by mouth q day Disp #*45 Tablet 
Refills:*2 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
preterm vaginal delivery
severe pre-eclampsia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
-see nursing packet
-pelvic rest for 6 weeks = nothing in the vagina - no sex, no 
tampons, no tubs/baths, no douching
 
Followup Instructions:
___